US07091214B2
tert-Butyl[4-(3-amino-7-bromoquinolin-4-ylamino)butyl]carbamate was treated with butyryl chloride and cyclized according to the methods described in Part C and D of Examples 125–135. The resulting product, tert-butyl[4-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate was oxidized and aminated according to the methods described in Parts H and I of Example 1 to afford tert-butyl[4-(4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate, which was coupled with 3-pyridylboronic acid according to the method described in Part J of Example 1. The reaction was heated at reflux for four hours, and the work-up procedure described in Part F of Examples 125–135 was followed. The crude product was recrystallized from toluene (1 mL/g) to provide tert-butyl {4-[4-amino-2-propyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butyl}carbamate as a tan powder, mp 136–138° C.

reactant | tert-Butyl[4-(3-amino-7-bromoquinolin-4-ylamino)butyl]carbamate | C(C)(C)(C)OC(NCCCCNC1=C(C=NC2=CC(=CC=C12)Br)N)=O | C18H25BrN4O2
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | tert-butyl[4-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | C(C)(C)(C)OC(NCCCCN1C(=NC=2C=NC=3C=C(C=CC3C21)Br)CCC)=O | C22H29BrN4O2
product | tert-butyl[4-(4-amino-7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | C(C)(C)(C)OC(NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)Br)N)CCC)=O | C22H30BrN5O2
